US04260619
To the suspension of 9.8 g of 2-methyl-5-pyridinol in 200 ml of tetrahydrofuran, 135 ml of 1.6 molar n-butyllithium are added during 30 minutes while stirring under nitrogen at -20°. After 3 hours 10 g of t-butyliminoethane are added during 30 minutes at said temperature and the resulting mixture is processed as described in Example 4, except that the final solution is acidified with hydrogen chloride in ethyl acetate, to yield the 2-(2-t-butylaminopropyl)-5-pyridinol dihydrochloride melting at 218°-220°.

reactant | 2-methyl-5-pyridinol | 9.8 g | CC1=NC=C(C=C1)O | C6H7NO
reactant | t-butyliminoethane | 10 g | C(C)(C)(C)N=CC | C6H13N
reactant | hydrogen chloride | Cl | ClH
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
solvent | n-butyllithium | 1.6 molar, 135 ml | C(CCC)[Li]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-(2-t-butylaminopropyl)-5-pyridinol dihydrochloride | Cl.Cl.C(C)(C)(C)NC(CC1=NC=C(C=C1)O)C | InChI=1S/C12H20N2O.2ClH/c1-9(14-12(2,3)4)7-10-5-6-11(15)8-13-10;;/h5-6,8-9,14-15H,7H2,1-4H3;2*1H
